US07084139B2
(E)-2-(4-Chlorophenyl)-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide
tert-Butyl (2S)-2-[(3S)-3-({[(E)-2-(4-chlorophenyl)ethenyl]sulfonyl}amino)-2-oxopyrrolidin-1-yl]propanoate (0.192 g) was dissolved in DCM (2 ml) and treated with trifluoroacetic acid (2 ml) and stirred at room temperature for 2 h. The mixture was then concentrated under reduced pressure to give an oil which was subsequently dissolved in DCM (5 ml) and treated with 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.256 g), HOBT (0.184 g) and triethylamine (0.375 ml). After the solution had been stirred at room temperature for 30 min, piperidine (0.133 ml) was added and the resultant mixture stirred for a further 20 h. The mixture was concentrated under reduced pressure and the residue partitioned between DCM and water. The organic component was washed with water and brine, and concentrated under reduced pressure. The residue was purified using SPE (silica, eluting with cyclohexane; cyclohexane:ethyl acetate 4:1, 1:1, 1:4; ethyl acetate; methanol:ethyl acetate 1:10; methanol) to give the title compound (0.042 g) as a white solid.

reactant | tert-Butyl (2S)-2-[(3S)-3-({[(E)-2-(4-chlorophenyl)ethenyl]sulfonyl}amino)-2-oxopyrrolidin-1-yl]propanoate | 0.192 g | ClC1=CC=C(C=C1)/C=C/S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C19H25ClN2O5S
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.256 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.184 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperidine | 0.133 ml | N1CCCCC1 | C5H11N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.375 ml | C(C)N(CC)CC | C6H15N
product | (E)-2-(4-Chlorophenyl)-N-{(3S)-1-[(1S)-1-methyl-2-oxo-2-piperidin-1-ylethyl]-2-oxopyrrolidin-3-yl}ethenesulfonamide | 0.042 g | ClC1=CC=C(C=C1)/C=C/S(=O)(=O)N[C@@H]1C(N(CC1)[C@H](C(N1CCCCC1)=O)C)=O | C20H26ClN3O4S
